US05536701
3-[(1,1-Dimethylethyl)dimethylsilyl]-1-methyl-1H-pyrazol-5-ol (0.48 g, 0.0023 mole), 3-chloro-5-methoxypyridazine (0.36 g, 0.00249 mole) and 2,6-lutidine (0.396 mL, 0.003396 moles) were refluxed under N2 in xylene (20 mL) for 18 hours. The mixture was then filtered through silica gel with ethyl acetate and evaporated in vacuo. The crude compound was purified by reverse phase chromatography to give 3-[[3-[(1,1-dimethylethyl)dimethylsilyl]-1-methyl-1H-pyrazol-5-yl]oxy]-5-methoxypyridazine (0.19 g, 26% yield) as a brown solid.

reactant | 3-[(1,1-Dimethylethyl)dimethylsilyl]-1-methyl-1H-pyrazol-5-ol | 0.0023 mole, 0.48 g | CC(C)(C)[Si](C1=NN(C(=C1)O)C)(C)C | C10H20N2OSi
reactant | 3-chloro-5-methoxypyridazine | 0.00249 mole, 0.36 g | ClC=1N=NC=C(C1)OC | C5H5ClN2O
reactant | 2,6-lutidine | 0.003396 moles, 0.396 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[[3-[(1,1-dimethylethyl)dimethylsilyl]-1-methyl-1H-pyrazol-5-yl]oxy]-5-methoxypyridazine | 0.19 g, 26% yield | CC(C)(C)[Si](C1=NN(C(=C1)OC=1N=NC=C(C1)OC)C)(C)C | C15H24N4O2Si
